US05780642
3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1-ethyl-1-phenylpropyl)propylamine (0.5 g) was reacted with 4-cyanobenzoyl chloride (0.27 g) in a similar manner to Example 55 to give 4-cyano-N-(2-{1-[3-(1-ethyl-1-phenylpropylamino)propyl]imidazol-4-yl}ethyl)benzamide, m.p. 107°-109° C.

reactant | 3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1-ethyl-1-phenylpropyl)propylamine | 0.5 g | NCCC=1N=CN(C1)CCCNC(CC)(C1=CC=CC=C1)CC | C19H30N4
reactant | 4-cyanobenzoyl chloride | 0.27 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | 4-cyano-N-(2-{1-[3-(1-ethyl-1-phenylpropylamino)propyl]imidazol-4-yl}ethyl)benzamide | C(#N)C1=CC=C(C(=O)NCCC=2N=CN(C2)CCCNC(CC)(C2=CC=CC=C2)CC)C=C1 | C27H33N5O
